US04284642
A mixture of 250 ml (712 g, 2.63 moles) of phosphorous tribromide and 250 ml of dry chloroform is added dropwise to a solution of 100 g (0.558 moles) of N-(β-hydroxypropyl)-2,6-dimethyl-aniline in 500 ml of dry chloroform. During the addition the temperature of the mixture is maintained below +25° C. by cooling with icy water. The resulting mixture is boiled for 6 hours, thereafter it is cooled on salted ice, and 100 ml of water are added dropwise. The pH of the resulting mixture is adjusted to 9 with 10 n aqueous sodium hydroxide solutions. The phases are separated from each other, and the aqueous phase is extracted thrice with 300 ml of chloroform each. The organic solutions are combined, washed four times with 500 ml of water each, dried over anhydrous sodium sulfate, and the solvent is evaporated under reduced pressure. 118.2 g (87.5%) of N-(β-bromopropyl)-2,6-dimethyl-aniline are obtained as a colourless oily residue. This product is sufficiently pure to be applied directly in the next step. When distilling the oil at 0.3 mm Hg it boils at 102°-106° C.

reactant | phosphorous tribromide | 2.63 moles, 250 ml, 712 g | P(Br)(Br)Br | Br3P
reactant | N-(β-hydroxypropyl)-2,6-dimethyl-aniline | 0.558 moles, 100 g | OC(CNC1=C(C=CC=C1C)C)C | C11H17NO
reactant | water | O | H2O
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(β-bromopropyl)-2,6-dimethyl-aniline | 118.2 g, 87.5% | BrC(CNC1=C(C=CC=C1C)C)C | C11H16BrN
